US07202363B2
N-{4-[4-amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using N-[4-(4-amino-7-iodothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide (0.120 g, 0.217 mmol), 5-formyl-2-furylboronic acid (0.247 mmol) and the procedure described in General Procedure A.

reactant | N-[4-(4-amino-7-iodothieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 0.217 mmol, 0.120 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)I | C24H19IN4O2S
reactant | 5-formyl-2-furylboronic acid | 0.247 mmol | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
product | N-{4-[4-amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2OC(=CC2)C=O | C29H22N4O4S
